US07816349B2
3′,5′-Dichloro-4′-[(R)-1-(4,4-difluoro-cyclohexyl)-2-oxo-pyrrolidin-3-ylmethyl]-biphenyl-4-carboxylic acid
Treat a solution of 3′,5′-Dichloro-4′-[(R)-1-(4,4-difluoro-cyclohexyl)-2-oxo-pyrrolidin-3-ylmethyl]-biphenyl-4-carboxylic acid methyl ester (Preparation 14) (1.0 g, 2.0 mmol) in THF/water (15 mL/5 mL) with 2M aqueous LiOH (3.0 mL). Stir the reaction overnight at room temperature. Quench the reaction with 1N HCl and extract with EtOAc. Wash the organic with brine, dry over MgSO4, and filter. Remove the solvent to afford 0.97 g (100%) of desired product. MS (m/e): 482 (M+1).

reactant | 3′,5′-Dichloro-4′-[(R)-1-(4,4-difluoro-cyclohexyl)-2-oxo-pyrrolidin-3-ylmethyl]-biphenyl-4-carboxylic acid methyl ester | 2.0 mmol, 1.0 g | COC(=O)C1=CC=C(C=C1)C1=CC(=C(C(=C1)Cl)C[C@H]1C(N(CC1)C1CCC(CC1)(F)F)=O)Cl | C25H25Cl2F2NO3
reactant | LiOH | 2M, 3.0 mL | [Li+].[OH-]
solvent | THF water | 15 mL | C1CCOC1.O
product | 3′,5′-Dichloro-4′-[(R)-1-(4,4-difluoro-cyclohexyl)-2-oxo-pyrrolidin-3-ylmethyl]-biphenyl-4-carboxylic acid | 0.97 g, 100% | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)C1CCC(CC1)(F)F)=O)Cl)C1=CC=C(C=C1)C(=O)O | C24H23Cl2F2NO3
